US04440779
To a stirred, refluxing mixture of ethyl glycinate hydrochloride (100 g, 0.71 m), ethyl 2,4-dioxo-5-(3-methylphenoxy)pentanoate (187 g, 0.71 m) and benzene (650 ml) under a nitrogen atmosphere is added finely powdered anhydrous potassium carbonate (50 g, 0.36 m) in five portions over one hour, the eliminated water being collected in a Dean-Stark trap until the theoretical amount (12.6 ml) is collected. The mixture is cooled to 5° C., then 750 ml dry ethanol is added and sodium metal (16.5 g, 0.71 mol) is added in small pieces at a rate which permits the internal reaction temperature to be maintained at less than 40° with cooling. Stirring is continued in the ice bath for an additional 1/2 hour, and the reaction mixture is then poured into a 5-liter separatory funnel containing ether (1 liter) and water (2 liters). The layers are separated and the aqueous layer is re-extracted with ether. The combined ether layers are washed with water and saturated brine. The organic layer is dried over sodium sulfate and concentrated to give a residue which is purified by preparative HPLC to afford diethyl 4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate.

reactant | ethyl glycinate hydrochloride | 100 g | Cl.NCC(=O)OCC
reactant | ethyl 2,4-dioxo-5-(3-methylphenoxy)pentanoate | 187 g | O=C(C(=O)OCC)CC(COC1=CC(=CC=C1)C)=O | C14H16O5
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium | 0.71 mol, 16.5 g | [Na] | Na
solvent | water | 2 liters | O | H2O
solvent | ether | 1 liter | CCOCC | C4H10O
solvent | benzene | 650 ml | C1=CC=CC=C1 | C6H6
product | diethyl 4-(3-methylphenoxy)methylpyrrole-2,5-dicarboxylate | CC=1C=C(OCC=2C=C(NC2C(=O)OCC)C(=O)OCC)C=CC1 | C18H21NO5
